* Wurlitzer 200A Preamp — Tremolo Pump Transient Analysis
* ======================================================
* Simulate tremolo R_ldr cycling and measure:
*   V(out) — preamp output (DC-coupled, before volume pot)
*   V(after_c8) — after C-8 coupling cap into R-31 (power amp input)
*   V(fb_junct) — feedback junction
*   V(emit1) — TR-1 emitter
*
* This shows the REAL waveform: is the DC swing blocked by C-8?

.title Preamp Tremolo Pump Transient

.include ../models/transistors.lib
.include ../models/diodes.lib
.include ../subcircuits/preamp.cir

* Supply
Vcc  vcc 0  DC 14.5

* Instantiate preamp
Xpre  in_sig out vcc 0 fb_junct  wurli_preamp

* No audio — ground input
Vin  in_sig 0  DC 0

* === LDR modulation ===
* Model R_ldr as a B-source resistor driven by a sine wave.
* R_ldr swings from 19K (bright, sin=1) to 1M (dark, sin=0).
* Use a half-wave rectified sine to model the LED/LDR response.
*
* LED drive: half-wave rectified sine at 5.63 Hz
* R_ldr = R_min when LED brightest, R_max when LED off
* Log-space interpolation: log(R) = log(R_max) - drive * (log(R_max) - log(R_min))
*
* Simplified: linear sweep between extremes for worst-case analysis
* R_ldr = 19K + (1M - 19K) * 0.5 * (1 - sin(2*pi*5.63*time))
*       = 509.5K + 490.5K * sin(2*pi*5.63*time) ... wait, need to go the right way
*
* For a clean analysis: just sweep between 19K and 1M with a sine at 5.63 Hz
* drive = 0.5 + 0.5*sin(2*pi*5.63*t)  [0..1 range]
* R_ldr = 19K when drive=1, 1M when drive=0
* R_ldr = 1M - 981K * drive = 1M - 981K * (0.5 + 0.5*sin(2*pi*5.63*t))

* Use behavioral resistor for LDR
Bldr  fb_junct 0  I = V(fb_junct) / (1e6 - 981e3 * (0.5 + 0.5*sin(2*3.14159265*5.63*time)))

* === C-8 coupling cap and power amp input ===
* C-8 (4.7 MFD) from preamp output to power amp input
* R-31 (15K) as feedback resistor provides the DC path (to output = 0V at DC)
* R-28 (10K) series input resistor
* Simplified: C-8 into R-31||R_in
C8   out  after_c8  4.7U
R31  after_c8 0  15K

* Transient: 2 seconds, let circuit settle for 500ms
.tran 100U 2 0 100U

.print TRAN V(out) V(after_c8) V(fb_junct) V(Xpre.emit1) V(Xpre.coll1)

.end
